US06869954B2
7) Preparation of 4-carboxy-6-(3-fluoro-4-methylphenyl)-2-isobutyl-2H-pyridazin-3-one
To a suspension of 6-(3-fluoro-4-methylphenyl)-2-isobutyl-4-methoxycarbonyl-2H-pyridazin-3-one (5.27 g, 16.6 mmol) in methanol (50 mL) was added a 2 mol/L aqueous sodium hydroxide (50 mL), and the mixture was stirred at 60° C. for 15 minutes. The temperature of the reaction mixture was allowed to drop back to room temperature, and then, water was added. After the system was acidified with concentrated hydrochloric acid, the mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystallized from chloroform-hexane to yield the title compound as colorless fine-needles (4.73 g, 93.8%).

reactant | 6-(3-fluoro-4-methylphenyl)-2-isobutyl-4-methoxycarbonyl-2H-pyridazin-3-one | 16.6 mmol, 5.27 g | FC=1C=C(C=CC1C)C=1C=C(C(N(N1)CC(C)C)=O)C(=O)OC | C17H19FN2O3
reactant | sodium hydroxide | 2 mol/L, 50 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 4-carboxy-6-(3-fluoro-4-methylphenyl)-2-isobutyl-2H-pyridazin-3-one | 4.73 g, 93.8% | C(=O)(O)C=1C(N(N=C(C1)C1=CC(=C(C=C1)C)F)CC(C)C)=O | C16H17FN2O3
